US05565565
9-(2-Acetoxyethoxy)methylguanine (2 gms, 7.5 mmol) was dissolved in 15 ml of acetic anhydride. The mixture was heated to 120° C. and 0.1 gms (0.8 mmol) of 4-dimethylaminopyridine (DMAP) added. The reaction mixture was kept at 120° C. for 3 hours, then the mixture was cooled to 40° C. and 10 ml of toluene added. Hexane (20 ml) was added slowly to effect crystallization of the product. The solid was collected by filtration and washed with hexane, yielding 1.82 gms of 9-(2-acetoxyethoxy)methyl-N2 -acetylguanine (79%) with a N-9/N-7 isomer ratio of >200:1. Characteristic analytical data are as follows: 1H NMR (DMSO-d6) δ1.85 (3H, singlet, --NHCOCH3), 2.08 (3H, singlet, --O2CCH3) , 3.6 (2H, multiplet, --OCH2 --) , 3.95 (2H, multiplet, --CH2O--), 5.4 (2H, singlet, --NCH2O--) , 8.06 (1H, singlet, --N=CH--N--).

reactant | 9-(2-Acetoxyethoxy)methylguanine | 7.5 mmol, 2 gms | C(C)(=O)OCCOCN1C=2N=C(NC(C2N=C1)=O)N | C10H13N5O4
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
reactant | Hexane | 20 ml | CCCCCC | C6H14
reactant | acetic anhydride | 15 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | 4-dimethylaminopyridine | 0.8 mmol, 0.1 gms | CN(C1=CC=NC=C1)C | C7H10N2
product | 9-(2-acetoxyethoxy)methyl-N2 -acetylguanine | 1.82 gms, 79% | C(C)(=O)OCCOCN1C=2N=C(NC(C2N=C1)=O)NC(C)=O | C12H15N5O5
